US07223772B1
4-[2-(3-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-pentanoylbenzenesulfonamide
To a solution of 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide (0.109 g 0.25 mmol) in chloroform (10 ml) was added diisopropylethylamine (Aldrich) (100 μl), 4-dimethylaminopyridine (0.02 g 0.16 mmol) and valeryl chloride (Aldrich) (0.072 g 0.6 mmol) and the reaction was stirred at room temperature for 20 hr. It was washed with M Na2CO3 (5 ml), water (5 ml) and dried (MgSO4). Removal of solvent gave a solid which was purified by SPE chromatography. Elution with cyclohexane:ethyl acetate (2:1) gave the title compound as a white solid (0.075 g 58%).

reactant | 4-[2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridin-3-yl]benzenesulfonamide | 0.25 mmol, 0.109 g | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)N | C20H13F4N3O2S
reactant | diisopropylethylamine | 100 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | valeryl chloride | 0.6 mmol, 0.072 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-dimethylaminopyridine | 0.16 mmol, 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[2-(3-Fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-pentanoylbenzenesulfonamide | 0.075 g, 58% | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=CC=C(C=C1)S(=O)(=O)NC(CCCC)=O | C25H21F4N3O3S
